US07799775B2
After dissolving 250 mg of 1-(4-benzylpiperazin-1-yl)-7-dimethylaminoisoquinoline as synthesized in above Step 2 in 20 ml of ethanol, 50 mg of 10% palladium-on carbon was added to the solution. This mixture was stirred for 16 hours at room temperature in hydrogen atmosphere. The insoluble matter was removed by filtration and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (methanol:chloroform=1:9) to provide 46 mg (25%) of 7-dimethylamino-1-piperazin-1-ylisoquinoline.

reactant | 1-(4-benzylpiperazin-1-yl)-7-dimethylaminoisoquinoline | 250 mg | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)N(C)C | C22H26N4
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-on carbon | 50 mg | [Pd] | Pd
product | 7-dimethylamino-1-piperazin-1-ylisoquinoline | 46 mg, 25% | CN(C1=CC=C2C=CN=C(C2=C1)N1CCNCC1)C | C15H20N4
